US04963590
3,4-Dihydroxy-5-cyanobenzaldehyde
A solution containing 1.35 g of 2,3-dihydroxybenzonitrile and 1.4 g of hexamethylene tetramine in 20 ml of trifluoroacetic acid was refluxed for 1.5 h. Water was added and the product was filtered. Yield 0.9 g (55%), m.p. 211°-215° C.

reactant | 2,3-dihydroxybenzonitrile | 1.35 g | OC1=C(C#N)C=CC=C1O | C7H5NO2
reactant | hexamethylene tetramine | 1.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Water | O | H2O
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3,4-Dihydroxy-5-cyanobenzaldehyde | OC=1C=C(C=O)C=C(C1O)C#N | C8H5NO3
